US07553873B2
2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester (369 mg, 0.67 mmol) was dissolved in dichloroethane (10 mL) and added to TFA (5 mL) at 0° C. The cooling bath was removed after the addition was complete. The mixture was stirred at room temperature for 3 hrs. and the reaction was complete as determined by TLC. After removing solvent, the residue was washed 3 times with EtOAc. The solid was then dried under vacuum to give 2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid in 85.6% yield (251 mg). MS (ESI) m/z 437.

reactant | 2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid di-tert-butyl ester | 0.67 mmol, 369 mg | C(C)(C)(C)OC(C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC=CC1)=O | C31H36N2O7
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 2-({4′-[(Furan-2-carbonyl)-amino]-biphenyl-4-carbonyl}-amino)-pentanedioic acid | 85.6% yield | O1C(=CC=C1)C(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC(C(=O)O)CCC(=O)O | C23H20N2O7
